US05998624
1-(2-iodophenyl)-N-methyl-N-(4-fluor-2-butyl)-3-isoquinoline-carboxamide (23a)
To a solution of 1-(2-iodophenyl)-3-isoquinolinecarboxylic acid (54.4 mg, 0.15 mmol), BOP (65.4 mg, 0.15 mmol) in DMF (6 mL) under Ar was added a solution of N-methyl 3-fluoro-2-butylamine (333.3 mg, crude, excess) and Et3N (21 μL, 0.15 mmol) in DMF (1.0 mL). The resulting mixture was stirred at ambient temperature for 7 h. Then it was quenched by adding H,O (5 mL). The mixture was extracted with CH2Cl2 (3×20 mL). The organic layers were dried (Na2SO4), filtered. The filtrate was concentrated in vacuo. The residue was purified on column chromatography (silica gel, 30% ethyl acetate/hexane, 0.05% Et3N) to give a yellow oil (36.2 mg). This oil was further purified on reverse phase HPLC (75% MeOH/H2O, 0.1% Et3N). Two major fractions were collected. The first fraction (Rt=13 min, 12 mg, 17%) was the title compound. mp 62-63.5° C. 1H NMR (CDCl3) d 1.20-1.40 (m, 3 H, CH3), 1.72-2.30 (m, 2 H, CH2), 3.01, 3.02 (two s, total 3 H, N-methyl), 4.32-4.57 (m, 2 H, CH2F), 4.60-4.71 (m, 0.5 H, CH), 4.92-5.02 (m, 0.5 H, CH), 7.21 (t, J=7.2 Hz, 1 H, aromatic), 7.32 (d, J=7.8 Hz, 1 H, aromatic), 7.46-7.64 (m, 3 H, aromatic), 7.72-7.83 (m, 1 H, aromatic), 7.95-8-19 (m, 3 H, aromatic). HRMS Cacld for C21H20FIN2O: 462.0604. Found: 462.0598.

reactant | 1-(2-iodophenyl)-3-isoquinolinecarboxylic acid | 0.15 mmol, 54.4 mg | IC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)O | C16H10INO2
reactant | BOP | 0.15 mmol, 65.4 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methyl 3-fluoro-2-butylamine | 333.3 mg | CNC(C)C(C)F | C5H12FN
reactant | Et3N | 0.15 mmol, 21 μL | CCN(CC)CC | C6H15N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 1-(2-iodophenyl)-N-methyl-N-(4-fluor-2-butyl)-3-isoquinoline-carboxamide | 36.2 mg | IC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)N(C(C)CCF)C | C21H20FIN2O
